US07547691B2
2-[5-Methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride
Using the method of 2-[5-methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid methylamide di-hydrochloride, the title compound is synthesized from 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid dimethylamide and 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester and isolated as a foam. ES+(m/z) 438 [M(free base)+H].

reactant | 2-[5-methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCC2CCNCC2)C1
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid dimethylamide | CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1)C | C16H14ClN3OS
reactant | 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
product | 2-[5-Methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride | Cl.Cl.CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCC2CCNCC2)C1)C | InChI=1S/C24H31N5OS.2ClH/c1-16-15-27-24(26-10-4-5-17-8-11-25-12-9-17)28-22(16)21-13-18-6-7-19(14-20(18)31-21)23(30)29(2)3;;/h6-7,13-15,17,25H,4-5,8-12H2,1-3H3,(H,26,27,28);2*1H
